data/mechanism_extracts/BullChemSocJpn/10.1246_bcsj.77.1545.json
{"doi": "10.1246_bcsj.77.1545", "journal": "BullChemSocJpn", "is_review": false, "rxn_class_summary": "Electrochemical one-electron cathodic reduction of accumulated N-acyliminium ion 'cation pools' to generate carbon free radicals that homo-couple or add to activated olefins (e.g., methyl acrylate)", "mechanism_family": ["radical_cathodic", "radical_polar_crossover", "cation_initiated"], "electrochemical_role": "Two-step paired sequence: anodic two-electron oxidation of N-(methoxycarbonyl)pyrrolidine (or silyl-substituted precursor) at -78 °C generates and accumulates the N-acyliminium cation pool; subsequent cathodic one-electron reduction (Ep ≈ -0.85 to -0.90 V vs Ag/Ag+) of the cation gives the α-amino C-radical", "key_intermediates": [{"name": "N-methoxycarbonyl pyrrolidinyl N-acyliminium ion (2)", "smiles": "COC(=O)N1CCC[CH+]1", "role": "reactive"}, {"name": "α-amino carbon radical (3) from one-electron reduction of 2", "smiles": "COC(=O)N1CCC[CH]1", "role": "reactive"}, {"name": "α-amino carbanion (9) from two-electron reduction of 2", "smiles": "COC(=O)N1CCC[CH-]1", "role": "transient"}, {"name": "dimeric radical cation (8) from radical-cation coupling", "smiles": null, "role": "transient"}, {"name": "homo-coupled pyrrolidine dimer (4)", "smiles": "COC(=O)N1CCCC1C1CCCN1C(=O)OC", "role": "reactive"}, {"name": "adduct radical (20) from addition of 3 to methyl acrylate", "smiles": "COC(=O)N1CCCC1CC([CH])C(=O)OC", "role": "transient"}, {"name": "carbanion (21) from one-electron reduction of 20", "smiles": "COC(=O)N1CCCC1CC([CH-])C(=O)OC", "role": "transient"}, {"name": "C-H addition product (19)", "smiles": "COC(=O)N1CCCC1CCC(=O)OC", "role": "reactive"}, {"name": "2:1 coupling byproduct (22) from reaction of 21 with 2", "smiles": null, "role": "off_pathway"}, {"name": "simply reduced pyrrolidine (1) via protonation of 9", "smiles": "COC(=O)N1CCCC1", "role": "off_pathway"}], "electron_flow": "Anode performs 2e- oxidation of carbamate precursor (with loss of H+ or SiMe3+) to accumulate N-acyliminium cation; cathode then delivers 1e- to the cation giving an α-amino carbon radical, which either homo-couples (possibly via radical-radical or radical-cation dimer reduction) or adds to methyl acrylate, after which the resulting electron-poor radical is reduced once more and protonated to close a formal C-H/C=C addition.", "rate_determining_step": null, "probe_reagents": [{"name": "Zn powder (chemical 2e- reductant)", "smiles": "[Zn]", "purpose": "redox_probe", "observation": "Predominantly gives simply reduced 1 (54%) with only 16% dimer 4, indicating 2e- pathway via carbanion 9 dominates chemically"}, {"name": "SmI2 (chemical 1e- reductant)", "smiles": null, "purpose": "redox_probe", "observation": "Gives mainly 1 (10%) with little 4 (4%); supports 2e- pathway in chemical reduction vs 1e- in electrochemistry"}, {"name": "Methyl acrylate (radical acceptor)", "smiles": "C=CC(=O)OC", "purpose": "intermediate_trap", "observation": "Trapping gives adduct 19 (up to 88% with 50 equiv TfOH), supporting intermediacy of carbon radical 3"}, {"name": "Trifluoromethanesulfonic acid (proton source)", "smiles": "OS(=O)(=O)C(F)(F)F", "purpose": "intermediate_trap", "observation": "Suppresses 2:1 byproduct 22 by protonating carbanion 21; increases 19 to 88%"}, {"name": "Mixed cation pool (2 + 7) crossover", "smiles": null, "purpose": "crossover", "observation": "Non-selective formation of three coupling products (4, 16, 18) consistent with radical coupling but also compatible with radical-cation or anion-cation coupling"}, {"name": "Cyclic voltammetry of cation pools 2 and 7", "smiles": null, "purpose": "redox_probe", "observation": "Ep = -0.85 to -0.90 V for 2 and -0.75 V for 7; positive shift vs N,N-dialkyliminium (-1.95 V) attributed to electron-withdrawing CO2Me"}], "evidence_types_used": ["cyclic_voltammetry", "intermediate_trap_other", "stoichiometric_intermediate", "crossover", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Authors favor the radical pathway (path A: 3 adds to methyl acrylate → 20 → 21 → 19) over the carbanion pathway (path B: 2e- reduction of 2 to carbanion 9, then conjugate addition). For homo-coupling, radical-radical dimerization of 3 and radical-cation coupling (3 + 2 → 8, then reduction) cannot be experimentally distinguished. Electrode choice matters: Pt cathode favors 1e- reduction (selective dimer 4, up to 75%), while C cathode allows more 2e- over-reduction to 1. Chemical reductants (Zn, SmI2) instead favor the 2e- carbanion pathway, possibly via metal-ion stabilization of 9."}
